US07776857B2
A two neck RBF equipped with an air condenser was charged with 5-[(3-Bromo-2-methoxy-pyridin-4-ylamino)-methylene]-2,2-dimethyl-[1,3]dioxane-4,6-dione (23 g, 64 mmol) and diphenyl ether (230 mL). The reaction mixture was heated at 250° C. for 30 min under nitrogen atmosphere after which it was cooled to RT, diluted with hexane and filtered to obtain a dark solid. The crude product was refluxed in hexane for 30 min and filtered to obtained 8-Bromo-7-methoxy-1H-[1,6]naphthyridin-4-one as a brown solid.

reactant | 5-[(3-Bromo-2-methoxy-pyridin-4-ylamino)-methylene]-2,2-dimethyl-[1,3]dioxane-4,6-dione | 64 mmol, 23 g | BrC=1C(=NC=CC1NC=C1C(OC(OC1=O)(C)C)=O)OC | C13H13BrN2O5
reactant | diphenyl ether | 230 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | hexane | CCCCCC | C6H14
product | 8-Bromo-7-methoxy-1H-[1,6]naphthyridin-4-one | BrC=1C(=NC=C2C(C=CNC12)=O)OC | C9H7BrN2O2
